US09353096B2
In a 10 mL round-bottomed flask, (S)-3-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-1,1,1-trifluoro-propan-2-ol (120 mg, 485 μmol) was combined with acetonitrile (5.00 ml) to give a colorless solution. 1-Chloro-4-isocyanatobenzene (74.5 mg, 485 μmol) was added and the resulting mixture was stirred at room temperature overnight. The crude reaction mixture was concentrated in vacuo and purified on a silica column (hexane to 60% EtOAc/hexane gradient) to afford an oil. This oil was dissolved in ether and hexane and a 4N HCl solution (0.2 ml) was added and the mixture concentrated to afford 50 mg of (4-chlorophenyl)-carbamic acid (S)-1-(1,1-dioxo-1λ6-thiomorpholin-4-ylmethyl)-2,2,2-trifluoroethyl ester hydrochloride as a white solid. (M+H)+=401 m/e.

reactant | (S)-3-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-1,1,1-trifluoro-propan-2-ol | 485 μmol, 120 mg | O=S1(CCN(CC1)C[C@@H](C(F)(F)F)O)=O | C7H12F3NO3S
reactant | acetonitrile | 5.00 ml | C(C)#N | C2H3N
reactant | 1-Chloro-4-isocyanatobenzene | 485 μmol, 74.5 mg | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | HCl | 4N, 0.2 ml | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | (4-chlorophenyl)-carbamic acid (S)-1-(1,1-dioxo-1λ6-thiomorpholin-4-ylmethyl)-2,2,2-trifluoroethyl ester hydrochloride | 50 mg | Cl.O=S1(CCN(CC1)C[C@@H](C(F)(F)F)OC(NC1=CC=C(C=C1)Cl)=O)=O | InChI=1S/C14H16ClF3N2O4S.ClH/c15-10-1-3-11(4-2-10)19-13(21)24-12(14(16,17)18)9-20-5-7-25(22,23)8-6-20;/h1-4,12H,5-9H2,(H,19,21);1H/t12-;/m0./s1
